US04788209
A suspension of butyltriphenylphosphonium bromide (27.3 g, 0.067 m) in 350 ml of dry tetrahydrofuran was cooled to 0° C. under an inert atmosphere of argon. To this stirred suspension was added 0.9 equivalent (0.06 m) of n-butyl lithium in hexane with continued cooling. The mixture was stirred at 0° and as ylide formation proceeded the solid phosphonium salt dissolved with formation of a red-orange solution. After 30 minutes a solution of one equivalent of 3-nitrobenzaldehyde (10.1 g, 0.067 m) in 200 ml of dry tetrahydrofuran was added dropwise to the ylide solution during 30 minutes. The reaction mixture was stirred and allowed to warm to room temperature. After 1 hour the reaction was quenched into 500 ml of saturated ammonium chloride solution and extracted several times with diethyl ether. The combined ether extracts were washed with water and with saturated sodium chloride solution and dried over magnesium sulfate. Filtration of the drying agent and concentration of the ether solution under vacuum afforded a clear brown oil which was purified by silica gel column chromatography to give 3-(1-hexenyl)nitrobenzene (11.0 g, 90% yield) as a clear, light-yellow oil. NMR of this material showed it to be mostly cis configuration at the double bond with some trans isomer present.

reactant | n-butyl lithium | 0.9 equivalent | C(CCC)[Li]
reactant | phosphonium | [PH4+]
reactant | 3-nitrobenzaldehyde | 10.1 g, one equivalent | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | butyltriphenylphosphonium bromide | 27.3 g | [Br-].C(CCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | hexane | CCCCCC | C6H14
product | 3-(1-hexenyl)nitrobenzene | 11.0 g, 90% yield | C(=CCCCC)C=1C=C(C=CC1)[N+](=O)[O-] | C12H15NO2
